US08669271B2
4-[5-(5-Methylcarbamoyl-pyridin-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid tert-butyl ester and 6-bromo-N-methylnicotinamide following a procedure analogous to that described in Example 1. LC (method 10): tR=1.69 min; Mass spectrum (ESI+): m/z=438 [M+H]+.

reactant | 4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C24H36BNO5
reactant | 6-bromo-N-methylnicotinamide | BrC1=NC=C(C(=O)NC)C=C1 | C7H7BrN2O
product | 4-[5-(5-Methylcarbamoyl-pyridin-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C2=NC=C(C=C2)C(NC)=O | C25H31N3O4
